US07456177B2
Preparation of 3-(4-Fluoro-phenyl)-3,4,9-triaza-tricyclo[5.3.1.02,6]undeca-2(6),4-diene
To a solution of 9-benzyl-3-(4-fluoro-phenyl)-3,4,9-triaza-tricyclo[5.3.1.020.6]undeca-2(6),4-diene (0.23 mmol) in methanol (2 ml) was added a solution of 1N HCl in diethyl ether (2 mL). The mixture was stirred for 45 min. and the solvent was removed to yield a solid. In a separate flask piperdine (1.5 mmol) and formic acid (0.69 mmol) were combined in methanol (2 ml). To this solution is added a solution of the HCl salt of 9-benzyl-3-(4-fluoro-phenyl)-3,4,9-triaza-tricyclo[5.3.1.02,6]undeca-2(6),4-diene in methanol (3 ml). To this resulting solution was added Pearlman's catalyst (8 mg, 10% wt. on carbon). The reaction mixture was heated under reflux under a nitrogen atmosphere for 18 h then it was cooled and filtered through a plug of Celite™ to remove solids and the pad was washed with methanol. The resulting filtrate was condensed to a gum, which is taken up in ethyl acetate and saturated aqueous sodium bicarbonate solution (20 ml). The mixture was extracted with ethyl acetate (3×20 mL) and the resulting organic layer was dried over MgSO4. The solids were removed by vacuum filtration and the solvent was removed to provide an oil which was purified by chromatography on silica gel eluting with 0.1% ammonium hydroxide solution in 10% methanol/dichloromethane to produce an oil that was treated with 1N HCl in ethyl ether. Trituration of the solids produced a gummy solid (0.082 mmol). 1H NMR (CD3OD, 400 MHz) δ 7.60 (m, 2H), 7.40 (s, 1H), 7.20 (br, 2H), 3.25 (m, 1H), 2.90–2.60 (m, 5H), 2.20 (m, 1H), 0.80 (br s, 1H); APCl MS m/z 244.2 (M+H)+.

reactant | HCl | 1N | Cl | ClH
reactant | piperdine | 1.5 mmol | N1CCCCC1 | C5H11N
reactant | formic acid | 0.69 mmol | C(=O)O | CH2O2
reactant | 9-benzyl-3-(4-fluoro-phenyl)-3,4,9-triaza-tricyclo[5.3.1.02,6]undeca-2(6),4-diene | C(C1=CC=CC=C1)N1CC2C=3C=NN(C3C(C1)C2)C2=CC=C(C=C2)F | C21H20FN3
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
catalyst | Pearlman's catalyst | 8 mg | [OH-].[OH-].[Pd+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-Fluoro-phenyl)-3,4,9-triaza-tricyclo[5.3.1.02,6]undeca-2(6),4-diene | 0.082 mmol | FC1=CC=C(C=C1)N1C=2C3CNCC(C2C=N1)C3 | C14H14FN3
